US07897603B2
A6a) 1-benzyl-4-morpholin-4-yl-piperidin-4-carbonitrile
A solution of 5.25 g (23.8 mmol) 1-benzyl-4-hydroxy-piperidine-4-carbonitrile and 2.2 mL (25.2 mmol) morpholine in 30 mL MeOH was refluxed for 6 h. The mixture was evaporated to dryness i.vac., while the product was obtained in the form of crystals.

reactant | 1-benzyl-4-hydroxy-piperidine-4-carbonitrile | 23.8 mmol, 5.25 g | C(C1=CC=CC=C1)N1CCC(CC1)(C#N)O | C13H16N2O
reactant | morpholine | 25.2 mmol, 2.2 mL | N1CCOCC1 | C4H9NO
solvent | MeOH | 30 mL | CO | CH4O
product | 1-benzyl-4-morpholin-4-yl-piperidin-4-carbonitrile | C(C1=CC=CC=C1)N1CCC(CC1)(C#N)N1CCOCC1 | C17H23N3O
